US04659716
8-chloro-6,11-dihydro-11-(1-cyano-4-piperidylidene)-5H-benzo[5,6]cyclohepta[1,2-b]pyridine.
Dissolve 16.2 grams (0.05 mole) of 8-chloro-6,11-dihydro-11-(1-methyl-4-piperidylidene)-5H-benzo[5,6]cyclohepta[1,2-b]pyridine (prepared by the methods described in U.S. Pat. No. 3,326,924) in 300 mL of dry benzene. To this solution, add slowly under nitrogen a solution of cyanogen bromide (6.4 g) dissolved in 75 mL of benzene. Allow this mixture to stir at room temperature overnight (approximately 20 hours).

reactant | 8-chloro-6,11-dihydro-11-(1-methyl-4-piperidylidene)-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 0.05 mole, 16.2 grams | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C)C1 | C20H21ClN2
reactant | cyanogen bromide | 6.4 g | N#CBr | CBrN
solvent | benzene | 300 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 75 mL | C1=CC=CC=C1 | C6H6
product | 8-chloro-6,11-dihydro-11-(1-cyano-4-piperidylidene)-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C#N)C1 | C20H18ClN3
